US06482943B1
Morpholino-Ser(OAloc) was prepared from Ser(OtBu)-OtBu. Reaction of Ser(OtBu)-OtBu with 4-morpholinecarbonyl chloride in pyridine yielded morpholino-Ser(OtBu)-OtBu. Morpholino-Ser(OtBu)-OtBu was hydrolyzed with TFA to yield morpholino-Ser. Esterification of morpholino-Ser with isobutylene in the presence of a catalytic amount of H2SO4 afforded morpholino-Ser-OtBu. Reaction of morpholino-Ser-OtBu with allyl 1-benzotriazolyl carbonate yielded morpholino-Ser(OAloc)-OtBu. Morpholino-Ser(OAloc)-OtBu was hydrolyzed with TFA in CHCl3 (1:1) to yield morpholino-Ser(OAloc).

reactant | Morpholino-Ser(OAloc)-OtBu | N([C@@H](COC(=O)OCC=C)C(=O)OC(C)(C)C)N1CCOCC1 | C15H26N2O6
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | morpholino-Ser(OAloc) | N([C@@H](COC(=O)OCC=C)C(=O)O)N1CCOCC1 | C11H18N2O6
